US07192982B2
(2S)-3-{4-[3-(4-Cyclopentyl-phenoxy)-propoxy]-phenyl}-2-methoxy-propionic acid
The title compound was prepared from (2S)-3-[4-(3-Hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid linked to Wang's Resin (Example 94, Step D) via Mitsunobu coupling with 4-cyclopentylphenol and cleavage from the resin (Standard Procedure G) gave an oily solid.

reactant | (2S)-3-[4-(3-Hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid | OCCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OC | C13H18O5
reactant | 4-cyclopentylphenol | C1(CCCC1)C1=CC=C(C=C1)O | C11H14O
product | (2S)-3-{4-[3-(4-Cyclopentyl-phenoxy)-propoxy]-phenyl}-2-methoxy-propionic acid | C1(CCCC1)C1=CC=C(OCCCOC2=CC=C(C=C2)C[C@@H](C(=O)O)OC)C=C1 | C24H30O5
